US05300716
4 G (18 mmole) of N,N-diethyl-undeca-2Z,5Z-dienyl-amine in 10 ml of ethanol were placed in a 25 ml flask under nitrogen and 4 ml of 70% oxygenated water were added thereto. The reaction mixture was maintained under stirring for 1 h and then left to rest at room temperature for 18 h. After evaporation, it was retaken with ethyl acetate and the organic phase, once separated, was washed with a saturated solution of NaCl, dried over Na2SO4 and evaporated to provide 4.09 g of N,N-diethyl-undeca-2Z,5Z-dienyl-amine N-oxide (yield: 95%).

reactant | N,N-diethyl-undeca-2Z,5Z-dienyl-amine | 18 mmole | C(C)N(CC)C\C=C/C\C=C/CCCCC | C15H29N
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | N,N-diethyl-undeca-2Z,5Z-dienyl-amine N-oxide | 4.09 g, yield: 95% | C(C)[N+](CC)(C\C=C/C\C=C/CCCCC)[O-] | C15H29NO
